US05061712
Yield: 3.2 g (87.6% of theory) of 7-(3-amino-1-pyrrolidinyl)-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid;
0.95 g (11 mmol) of pivalaldehyde are added dropwise to a solution of 0.86 g (10 mmol) of 3-aminopyrrolidine in 10 ml of acetonitrile at room temperature in the course of 5 minutes, during which the temperature rises from 22.5° C. to 27.5° C. The mixture is subsequently stirred for 1 hour and a virtually complete conversion into 3-(2,2-dimethylpropylideneamino)-pyrrolidine is found by checking the reaction by gas chromatography. The mixture is then diluted with 10 ml of acetonitrile and 10 ml of dimethylformamide, 3 g (10 mmol) of 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-3-quinolinecarboxylic acid and 2.2 g (20 mmol) of 1,4-diazabicyclo[2.2.2]octane are added and the mixture is heated under reflux for 1 hour. Work up gives the same result as described under Example 2a).

reactant | pivalaldehyde | 11 mmol, 0.95 g | C(C(C)(C)C)=O | C5H10O
reactant | 3-aminopyrrolidine | 10 mmol, 0.86 g | NC1CNCC1 | C4H10N2
reactant | 3-(2,2-dimethylpropylideneamino)-pyrrolidine | CC(C=NC1CNCC1)(C)C | C9H18N2
reactant | 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-3-quinolinecarboxylic acid | 10 mmol, 3 g | ClC=1C(=C(C=C2CC(=CN(C12)C1CC1)C(=O)O)F)F | C13H10ClF2NO2
reactant | 1,4-diazabicyclo[2.2.2]octane | 20 mmol, 2.2 g | N12CCN(CC1)CC2 | C6H12N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-(3-amino-1-pyrrolidinyl)-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)O)=O)F | C17H17ClFN3O3
